US07390903B2
To a stirred solution of 32 mg (0.13 mmol) (2-amino-benzo[b]thiophen-3-yl)-phenyl-methanone (the preparation of which is described in example 11) in 2 ml acetic acid was added 0.016 ml (0.13 mmol) of 1,1,1-trifluoro-pentane-2,4-dione and one drop of sulfuric acid. The mixture was then stirred at 100° C. for 10 minutes in a microwave and then concentrated in vacuo. Flash chromatography (heptane/ethyl acetate 20:1) afforded 8 mg (17%) 2,2,2-trifluoro-1-(2-methyl-4-phenyl-benzo[4,5]thieno[2,3-b]pyridin-3-yl)-ethanone as a light yellow solid. ES-MS m/e (%): 372 (M+H+, 100).

reactant | (2-amino-benzo[b]thiophen-3-yl)-phenyl-methanone | 0.13 mmol, 32 mg | NC1=C(C2=C(S1)C=CC=C2)C(=O)C2=CC=CC=C2 | C15H11NOS
reactant | 1,1,1-trifluoro-pentane-2,4-dione | 0.13 mmol, 0.016 ml | FC(C(CC(C)=O)=O)(F)F | C5H5F3O2
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
catalyst | sulfuric acid | one drop | S(O)(O)(=O)=O | H2O4S
product | 2,2,2-trifluoro-1-(2-methyl-4-phenyl-benzo[4,5]thieno[2,3-b]pyridin-3-yl)-ethanone | 8 mg, 17% | FC(C(=O)C=1C(=C2C(=NC1C)SC1=C2C=CC=C1)C1=CC=CC=C1)(F)F | C20H12F3NOS
